US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetamide
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetic acid (0.960 g, 0.00250 mol) and 1,1'-carbonyldiimidazole (0.420 g, 0.00259 mol) in tetrahydrofuran is stirred at room temperature for 4.5 hours, treated with ammonium chloride (0.230 g, 0.00430 mol), stirred overnight at room temperature, treated with concentrated ammonia (1.00 mL), stirred for 5 minutes, acidified with 10% hydrochloric acid, and concentrated in vacuo to obtain a residue. The residue is diluted with a 5% methanol in methylene chloride solution and the resultant mixture is stirred for three hours and filtered to obtain a solid. The solid is washed with a 5% methanol in methylene chloride solution, slurried in water, filtered, and dried to give the title product as a white solid which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetic acid | 0.00250 mol, 0.960 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)O)C1)=O | C15H10F3N3O4S
reactant | 1,1'-carbonyldiimidazole | 0.00259 mol, 0.420 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium chloride | 0.00430 mol, 0.230 g | [Cl-].[NH4+]
reactant | ammonia | 1.00 mL | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetamide | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)N)C1)=O | C15H11F3N4O3S
